US05780478
b) (R)-4-[2-(3-Cyclopentyloxy-6-iodo-4-methoxyphenyl)-2-phenylethyl]pyridine
From (R)-(+)-4-[2-(3-cyclopentyloxy-4-methoxyphenyl)-2-phenylethyl] pyridine (made as described in International Patent Specification No. WO 94/14742) (1.82 g, 4.88 mmol) in CHCl3 (50 ml)m, silver triflate (1.26 g, 4.88 mmol) and iodine (1.24 g, 4.88 mmol). Chromatography (SiO2 ;EtOAc) afforded the title compound (2.2 g) as a colourless gum. (Found C, 59.23; H, 5.32; N, 2.67. C23H26NO2 l requires C, 60.13; H, 5.25; N, 2.81) δH (CDCl3) 1.5-1.9 (8H, m,CH2)4), 3.25 (1H, d, J 5 Hz, CH2 pyridine), 3.27 (1H, d, J 5 Hz, CH2 pyridine), 3.74 (3H, s, OCH3), 4.6-4.7 (1H, m, OCH), 4.64 (1H, t, J 8 Hz, CH phenyl), 6.74 (1H, s, C6H2), 7.01 (2H, d, J 5 Hz, H3, H5 pyridine), 7.24 (1H, s, C6 H2), 7.25-7.4 (5H, m, C6H5), and 8.39 (2H, d, J 5 Hz, H2, H6 pyridine). m/z 500 (M+, 100%), 406 (25) and 212 (14).

reactant | (R)-(+)-4-[2-(3-cyclopentyloxy-4-methoxyphenyl)-2-phenylethyl] pyridine | 4.88 mmol, 1.82 g | C1(CCCC1)OC=1C=C(C=CC1OC)[C@H](CC1=CC=NC=C1)C1=CC=CC=C1 | C25H27NO2
reactant | iodine | 4.88 mmol, 1.24 g | II | I2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver triflate | 4.88 mmol, 1.26 g | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | (R)-4-[2-(3-Cyclopentyloxy-6-iodo-4-methoxyphenyl)-2-phenylethyl]pyridine | 2.2 g | C1(CCCC1)OC=1C=C(C(=CC1OC)I)[C@H](CC1=CC=NC=C1)C1=CC=CC=C1 | C25H26INO2
